US05830920
2.10 g of 1,6-bis-O-(4-carboxy-phenyl)-D-mannitol were stirred at room temperature for 20 hours in 30 ml of pyridine with 5.1 ml of acetic anhydride. The reaction mixture was worked up extractively with ice-water and methylene chloride. The organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was recrystallized from methanol and methylene chloride. There was obtained 2,3,4,5-tetra-O-acetyl-1,6-bis-O-(4-carboxy-phenyl)-D-mannitol, MS: m/z 589 ([M-H]-).

reactant | 1,6-bis-O-(4-carboxy-phenyl)-D-mannitol | 2.10 g | C(=O)(O)C1=CC=C(C=C1)OC[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)COC1=CC=C(C=C1)C(=O)O | C20H22O10
reactant | acetic anhydride | 5.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,3,4,5-tetra-O-acetyl-1,6-bis-O-(4-carboxy-phenyl)-D-mannitol | C(C)(=O)O[C@H](COC1=CC=C(C=C1)C(=O)O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC1=CC=C(C=C1)C(=O)O | C28H30O14
